US04886885
(a) 3-(5-Cyano-2-thiophenyl)-propenoic acid
A stirred solution of 5-cyano-2-thiophene carboxaldehyde (3.3 g) and malonic acid (2.5 g) in pyridine (35 ml) and piperidine (0.7 ml) was heated under reflux for 2 hours adding further malonic acid (1.3 g) after 1 hour. The solution was evaporated and the residue was stirred with M hydrochloric acid solution (100 ml) to give a pale solid which was washed with water and dried, m.p. ca 260° C. (subliming).

reactant | 5-cyano-2-thiophene carboxaldehyde | 3.3 g | C(#N)C1=CC=C(S1)C=O | C6H3NOS
reactant | malonic acid | 2.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | malonic acid | 1.3 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
solvent | piperidine | 0.7 ml | N1CCCCC1 | C5H11N
product | 3-(5-Cyano-2-thiophenyl)-propenoic acid | C(#N)C1=CC=C(S1)C=CC(=O)O | C8H5NO2S
